US06159904
0.27 Gram (0.7 mmol) of 4-ethylthio-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide was dissolved in 3 ml of methylene chloride, and then a solution of 0.2 g (1.4 mmol) of potassium carbonate in 2 ml of water was added. Further, 0.16 ml (1.4 mmol) of n-propanesulfonyl chloride and 20 mg (0.08 mmol) of benzyltriethylammonium chloride were added, and the mixture was allowed to react at room temperature for 1 day. After the completion of the reaction, a methylene chloride layer was separated and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to give 0.21 g (yield 60%) of 4-ethylthio-5-methyl-6-(1-ethyl-5-n-propanesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide.

reactant | 4-ethylthio-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.7 mmol | C(C)SC1CCS(C2=CC=C(C(=C12)C)C(=O)C=1C=NN(C1O)CC)(=O)=O | C18H22N2O4S2
reactant | potassium carbonate | 1.4 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propanesulfonyl chloride | 1.4 mmol, 0.16 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | 2 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 0.08 mmol, 20 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 4-ethylthio-5-methyl-6-(1-ethyl-5-n-propanesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.21 g, yield 60% | C(C)SC1CCS(C2=CC=C(C(=C12)C)C(=O)C=1C=NN(C1OS(=O)(=O)CCC)CC)(=O)=O | C21H28N2O6S3
